US08669361B2
Reaction of 5-chloro-1-methyl-4-nitro-1H-pyrazole and (3S,4S)-pyrrolidine-3,4-diol gave (3S,4S)-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)pyrrolidine-3,4-diol as a bright yellow solid (258 mg, 91%). 1H NMR (400 MHz, d4-MeOD) δ 8.04 (s, 1H), 4.27-4.22 (m, 2H), 3.98 (dd, J=10.0, 4.4 Hz, 2H), 3.84 (s, 3H), 3.31-3.25 (m, 2H)

reactant | 5-chloro-1-methyl-4-nitro-1H-pyrazole | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
reactant | (3S,4S)-pyrrolidine-3,4-diol | N1C[C@@H]([C@H](C1)O)O | C4H9NO2
product | (3S,4S)-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)pyrrolidine-3,4-diol | 258 mg, 91% | CN1N=CC(=C1N1C[C@@H]([C@H](C1)O)O)[N+](=O)[O-] | C8H12N4O4
